US08236283B2
11-Azido-3,6,9-trioxaundecanamine
To a mechanically, vigorously stirred suspension of 1,11-diazido-3,6,9-trioxaundecane (20.8 g, 0.085 mol) in 5%/o hydrochloric acid (200 ml) was added a solution of triphenylphosphine (19.9 g, 0.073 mol) in ether (150 ml) over 3 hrs at room temperature. The reaction mixture was stirred for additional 24 hrs. The phases were separated and the aqueous phase was extracted with dichloromethane (3×40 ml). The aqueous phase was cooled in an ice/water bath and pH was adjusted to ca 12 by addition of KOH. The product was extracted into dichloromethane (5×50 ml). Combined organic phases were dried (MgSO4). Filtration and evaporation gave 14.0 g (88%) of yellow oil. Analysis by MALDI-TOF mass spectroscopy (matrix: α-cyano-4-hydroxycinnamic acid) gave a M+H peak at 219 as expected. Further characterisation using 1H (500 MHz) and 13C (125 MHz) NMR spectroscopy verified the structure.

reactant | 1,11-diazido-3,6,9-trioxaundecane | 0.085 mol, 20.8 g | N(=[N+]=[N-])CCOCCOCCOCCN=[N+]=[N-] | C8H16N6O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | triphenylphosphine | 0.073 mol, 19.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 150 ml | CCOCC | C4H10O
product | 11-Azido-3,6,9-trioxaundecanamine | 14.0 g, 88% | N(=[N+]=[N-])CCOCCOCCOCCN | C8H18N4O3
